US07163958B2
54a. (2S)-1-(4-Hydroxybutylthio)-2-(6-methoxy(2-naphthyl))propan-1-one
To a solution of naproxen (5.03 g, 21.9 mmol), 4-mercapto-1-butanol (2.32 g, 21.9 mmol) and N,N-dimethylaminopyridine (DMAP) (0.534 g, 4.37 mmol) in dichloromethane (200 mL) at room temperature was added 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (EDAC) (5.03 g, 26.2 mmol) as a solid, in portions. The reaction mixture was stirred for 3 hours at room temperature, then partitioned between dichloromethane and water, and the water layer was washed with more dichloromethane. The combined organic layer was washed with water and brine, then dried over magnesium sulfate. The solution was concentrated under vacuum, and the residue was purified via column chromatography, 50% ethyl acetate/hexane. The appropriate fractions were combined, and the solvent removed by rotary evaporation to give an oil, 2.647 g, which contained 19% 4-mercapto-1-butanol by weight (product weight 2.07 g, 6.5 mmol, 30% yield): 1H NMR (300 MHz, CDCl3) δ 7.73 (d, J=2.7 Hz, 1H), 7.71 (d, J=2.3 Hz, 1H), 7.69 (d, J=1.0 Hz, 1H), 7.40 (dd, J=1.8, 8.5 Hz, 1H), 7.15 (dd, J=2.5, 8.8 Hz, 1H), 7.12 (d, J=2.3 Hz, 1H), 4.02 (q, J=7.1 Hz, 1H), 3.92 (s, 3H), 3.61–3.64 (m, 2H), 2.87 (m, 2H), 1.61 (d, J=7.1 Hz, 3H), 1.59 (m, 2H), 1.41 (m, 2H); mass spectrum (API-TIS) m/z 319 (M+H+), 336 (M+18+).

reactant | naproxen | 21.9 mmol, 5.03 g | C[C@@H](C=1C=CC=2C=C(C=CC2C1)OC)C(=O)O | C14H14O3
reactant | 4-mercapto-1-butanol | 21.9 mmol, 2.32 g | SCCCCO | C4H10OS
reactant | 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride | 26.2 mmol, 5.03 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (2S)-1-(4-Hydroxybutylthio)-2-(6-methoxy(2-naphthyl))propan-1-one | 30% yield | OCCCCSC([C@@H](C)C1=CC2=CC=C(C=C2C=C1)OC)=O | C18H22O3S
